US06046135
Isopropylmagnesium chloride (5 ml of a 2M solution in tetrahydrofuran) was added during 10 minutes to a stirred solution of 2-(2,3-dihydro-6-methyl-4-oxo-5 -phenyl-4H-1,3-oxazin-3-yl)-2-methylpropionaldehyde (2 g) in tetrahydrofuran at 0° C. under an inert atmosphere. The mixture was allowed to warn to 10° C. over 1 hour, poured onto saturated ammonium chloride solution and extracted (ether). The organic phase was dried (magnesium sulphate) and evaporated to give 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2,4-dimethylpentan-3-ol (2.26 g) as a yellow gum, m.p. 42-54° C., NMR 1H δ0.85(d,3H), 0.95(d,3H), 1.4(s,3H), 1.5(s,3H), 1.65(m,1H), 1.85(s,3H), 3.25(dd,1H), 5.0(d,1H), 5.1(d,1H), 5.25(d,1H), 7.15-7.35(m,5H).

reactant | Isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | 2-(2,3-dihydro-6-methyl-4-oxo-5 -phenyl-4H-1,3-oxazin-3-yl)-2-methylpropionaldehyde | 2 g | CC1=C(C(N(CO1)C(C=O)(C)C)=O)C1=CC=CC=C1 | C15H17NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2,4-dimethylpentan-3-ol | 2.26 g | CC1=C(C(N(CO1)C(C)(C(C(C)C)O)C)=O)C1=CC=CC=C1 | C18H25NO3
